US05346647
0.6 g of magnesium shavings was covered with 5 ml of absolute diethyl ether while gassing with nitrogen and then, after the addition of a crystal of iodine, treated with a solution of 7 g of 3-(trans-4-pentylcyclohexyl)-1-propyl bromide in 50 ml of absolute diethyl ether. After completion of the addition the mixture was heated to reflux for a further 30 minutes. The reaction mixture was then treated with a solution of 2.6 g of 4-(trans-4-pentylcyclohexyl)benzonitrile in 50 ml of absolute diethyl ether and subsequently heated overnight under slight reflux. The cooled reaction mixture was treated with 200 ml of 25% hydrochloric acid and the organic phase was separated. The aqueous phase was extracted three times with 50 ml of diethyl ether each time. The combined organic phases were washed with 500 ml of water, 250 ml of concentrated potassium carbonate solution and again with 500 ml of water, dried over magnesium sulfate, filtered and then concentrated. Recrystallization of the residue from ethanol gave 4.1 g of 1-(trans-4-pentylcyclohexyl)-4-[4-(trans-4-pentylcyclohexyl)butanoyl]benzene with m.p. (C-SB) 75° C., SB -N 89° C. and cl.p. (N-I) 116° C.

reactant | magnesium | 0.6 g | [Mg] | Mg
reactant | iodine | II | I2
reactant | 3-(trans-4-pentylcyclohexyl)-1-propyl bromide | 7 g | C(CCCC)[C@@H]1CC[C@H](CC1)CCCBr | C14H27Br
reactant | 4-(trans-4-pentylcyclohexyl)benzonitrile | 2.6 g | C(CCCC)[C@@H]1CC[C@H](CC1)C1=CC=C(C#N)C=C1 | C18H25N
reactant | hydrochloric acid | 200 ml | Cl | ClH
reactant | diethyl ether | 50 ml | C(C)OCC | C4H10O
reactant | diethyl ether | 50 ml | C(C)OCC | C4H10O
reactant | diethyl ether | 5 ml | C(C)OCC | C4H10O
product | 1-(trans-4-pentylcyclohexyl)-4-[4-(trans-4-pentylcyclohexyl)butanoyl]benzene | 4.1 g | C(CCCC)[C@@H]1CC[C@H](CC1)C1=CC=C(C=C1)C(CCC[C@@H]1CC[C@H](CC1)CCCCC)=O | C32H52O
